US04950759
20 g (0.5 mol) of sodium hydroxide were dissolved in 120 ml of water. A cold solution of 109 g (0.5 mol) of 8-acetyl-1-nitroso-1,2,3,4-tetrahydroquinoline and 53 g (0.5 mol) of benzaldehyde in 300 ml of ethanol was added at 0°-5° C. The mixture was stirred at 10° C. for 1 hour, 600 ml of methylene chloride were then added and the mixture was stirred for 1 hour at 10°-20° C. 500 ml of water were then added, the organic layer was separated, dried, and the solvent was distilled off. 153.5 g of crude 8-(3-phenyl-2-propen-1-on-1-yl)-1-nitroso-1,2,3,4-tetrahydroquinoline were obtained.

reactant | sodium hydroxide | 0.5 mol, 20 g | [OH-].[Na+]
reactant | 8-acetyl-1-nitroso-1,2,3,4-tetrahydroquinoline | 0.5 mol, 109 g | C(C)(=O)C=1C=CC=C2CCCN(C12)N=O | C11H12N2O2
reactant | benzaldehyde | 0.5 mol, 53 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | methylene chloride | 600 ml | C(Cl)Cl | CH2Cl2
solvent | water | 120 ml | O | H2O
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | water | 500 ml | O | H2O
product | 8-(3-phenyl-2-propen-1-on-1-yl)-1-nitroso-1,2,3,4-tetrahydroquinoline | 153.5 g | C1(=CC=CC=C1)C=CC(=O)C=1C=CC=C2CCCN(C12)N=O | C18H16N2O2
